US05700625
A solution prepared by dissolving 10.0 g of a poly(hydroxystyrene) resin having a weight-average molecular weight of 20000 with a dispersion of the molecular weight distribution Mw /Mn of 1.1 (VP-20000, a product by Nippon Soda Co.), which contained a few % by weight or less of unpolymerized monomer and oligomers having a molecular weight smaller than 1000, in 40 g of ethyl lactate was taken in a separatory funnel and admixed with 150 g of n-hexane and the mixture was thoroughly shaken followed by standing to effect phase separation into an upper layer of the n-hexane solution and lower layer of the ethyl lactate solution. The n-hexane solution as the upper layer was discarded and the ethyl lactate solution as the lower layer was again admixed with 150 g of n-hexane followed by vigorous shaking of the mixture. This fractionating extraction with n-hexane was repeatedly undertaken four times and the finally obtained ethyl lactate solution was subjected to replacement of solvent with methyl alcohol by repeating evaporation of ethyl lactate and addition of methyl alcohol. The thus obtained methyl alcohol solution was added dropwise into a large volume of water to effect precipitation of the polymer which was collected, washed with pure water and dried to give a poly(hydroxystyrene) resin substantially free from unpolymerized hydroxystyrene monomer and oligomers having a molecular weight smaller than 1000 as confirmed by the GPC method. Since the content of the low molecular weight fractions in the starting resin was relatively low, no significant changes were found in the weight-average molecular weight and in the dispersion of the molecular weight distribution.

reactant | n-hexane | 150 g | CCCCCC | C6H14
reactant | ethyl lactate | 40 g | C(C(O)C)(=O)OCC | C5H10O3
product | hydroxystyrene | OC=CC1=CC=CC=C1 | C8H8O
